US07476764B2
Step 2: Preparation of methyl 3-acetyl-5-((1-(4-fluorophenyl)ethyl)-carbamoyl)benzoate.
A mixture of methyl 3-bromo-5-((1-(4-fluorophenyl)ethyl)-carbamoyl)benzoate (880 mg, 2.32 mmol), 1-(vinyloxy)butane (464.7 mg, 0.6 mL, 4.64 mmol), palladium acetate (16.0 mg, 0.070 mmol), DPPP (63.1 mg, 0.0153 mmol) and potassium carbonate (382 mg, 2.78 mmol) in DMF (2.5 mL) and H2O (0.3 mL) in a Smith process vial was heated at 122° C. in microwave for 3 h. The reaction mixture was cooled down to RT and hydrolyzed by addition of 5% HCl slowly. The reaction mixture was worked up by extraction with ethyl acetate and concentration under vacuum. The crude mixture was purified by reverse phase prep HPLC to give the title compound (520 mg, 65.4% yield): HPLC retention time: 1.88 min (method A). MS (ESI) (M+H)+ 343.00.

reactant | methyl 3-bromo-5-((1-(4-fluorophenyl)ethyl)-carbamoyl)benzoate | 2.32 mmol, 880 mg | BrC=1C=C(C(=O)OC)C=C(C1)C(NC(C)C1=CC=C(C=C1)F)=O | C17H15BrFNO3
reactant | 1-(vinyloxy)butane | 4.64 mmol, 0.6 mL, 464.7 mg | C(=C)OCCCC | C6H12O
reactant | DPPP | 0.0153 mmol, 63.1 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | potassium carbonate | 2.78 mmol, 382 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.3 mL | O | H2O
catalyst | palladium acetate | 0.070 mmol, 16.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-acetyl-5-((1-(4-fluorophenyl)ethyl)-carbamoyl)benzoate | 520 mg, 65.4% yield | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1)C(NC(C)C1=CC=C(C=C1)F)=O | C19H18FNO4
